data/mechanisms/records/IMS8-EQ8.38b.json
{"mechanism_id": "IMS8-EQ8.38b", "species": [{"species_id": "isopentane_radical_cation", "mapped_smiles": "[CH3:1][CH2:2][CH:3]([CH3:5])[CH3:4]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ethyl_cation", "mapped_smiles": "[CH3:1][CH2+:2]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "isopropyl_radical", "mapped_smiles": "[CH:3]([CH3:5])[CH3:4]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["isopentane_radical_cation"]}, {"state_id": "state_products", "species_ids": ["ethyl_cation", "isopropyl_radical"]}], "steps": [{"step_id": "step_sigma_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "sigma_dissociation", "semantics": "net_fragmentation", "electron_moves": [{"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "external", "atom_maps": []}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "atom", "atom_maps": [3]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_8_38b", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_sigma_cleavage", "support_type": "textbook_proposed", "locator": {"page": 169, "equation": "8.38", "figure": null, "panel": null, "section": "8.6 Sigma-bond dissociation (sigma)"}, "confidence": 0.8, "curator_note": "Equation 8.38, second branch: 'R3C(+)CR'3 --> R3C+ + .CR'3  or  R3C. + (+)CR'3'. Same C-C sigma homolysis as record IMS8-EQ8.38a but the OPPOSITE (less-favored) charge polarization. ARC COUNT (convention D): the book draws 0 curved arrows/fishhooks (straight reaction arrow). The 2 encoded electron_moves are IMPLICIT sigma homolysis: move <1> one electron of the cleaving C2-C3 bond OUT of the system (external ionization hole), move <2> the other onto C3 (isopropyl radical); C2 becomes the cation. INSTANTIATION (convention F): same substrate as 8.38a - the C2H5-CH(CH3)2+. (2-methylbutane / ISOPENTANE) worked example named in the page text - cleaving the ethyl-isopropyl C2-C3 bond, but here charge is retained on the ethyl side: ethyl cation (C2H5+) + isopropyl radical (.CH(CH3)2). The text states this polarization (giving C2H5+, m/z 29) is the LESS favored / less abundant of the pair ('the product abundance of +CH(CH3)2 should be greater than that of C2H5+'). Curator-computed detected ion m/z 29.0386 (C2H5+); page prints no numeric m/z or intensity so detected=false / status inferred / no relative_intensity (convention F). LOCALIZATION (convention B): neutral isopentane skeleton + charge/radical in fields + external-hole move, per IMS4-EQ4.3."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 72.0934, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_c2h5", "species_id": "ethyl_cation", "step_id": "step_sigma_cleavage", "observed_mz": 29.0386, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-26T00:00:00Z", "modified_at": "2026-07-26T00:00:00Z"}}
